US06239131B1
Preparation of 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
To 1-methoxymethyl-2-oxo-3-hydroxyamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (41.4 g) in absolute tetrahydrofuran (500 ml) were added n-propyl isocyanate (28.3 g) and triethylamine (33.7 g). The resultant mixture was refluxed for three hours with heat. The reaction mixture was concentrated under reduced pressure, and the residue was crushed in isopropyl ether and collected by filtration, to thereby obtain 33.4 g of the title compound (yield: 63.3%).

reactant | 1-methoxymethyl-2-oxo-3-hydroxyamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 41.4 g | COCN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)NO)=O | C17H19N3O3
reactant | n-propyl isocyanate | 28.3 g | C(CC)N=C=O | C4H7NO
reactant | triethylamine | 33.7 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 33.4 g, yield: 63.3% | COCN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)=NOC(=O)NCCC)=O | C21H24N4O4
